US07288537B2
A solution of {(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-[3-(4-fluoro-benzoyl)-azetidin-1-yl]-propyl}-carbamic acid tert-butyl ester. (0.188 g, 0.321 mmol) in dichloromethane (5 ml) is treated with trifluoroacetic acid, and stirred at ambient temperature for 0.5 hour. The reaction mixture is diluted with dichloromethane and washed with water and saturated aqueous NaHCO3. The organic phase is dried over MgSO4 and evaporated to afford {1-[(S)-3-Amino-4-(tert-butyl-diphenyl-silanyloxy)-butyl]-azetidin-3-yl)-(4-fluoro-phenyl)-methanone. [MH]+ 505.2.

reactant | {(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-[3-(4-fluoro-benzoyl)-azetidin-1-yl]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)C(C1=CC=C(C=C1)F)=O)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H45FN2O4Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | {1-[(S)-3-Amino-4-(tert-butyl-diphenyl-silanyloxy)-butyl]-azetidin-3-yl)-(4-fluoro-phenyl)-methanone | N[C@@H](CCN1CC(C1)C(=O)C1=CC=C(C=C1)F)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C30H37FN2O2Si
